US06825360B1
N-(4-Hydroxyphenyl)-3-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthyl)phenylacrylamide
In similar manner to Example 27(a), by reaction of 1.2 g (3.2 mmol) of 3-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthyl)phenylacryloyl chloride with 349 mg (3.2 mmol) of 4-hydroxyaniline, 810 mg of (57%) of N-(4-hydroxyphenyl)-3-(3,5,5,8,8-pentamethyl-5,6,7,6-tetrahydro-2-naphthyl)phenylacrylamide are obtained, with a melting point of 240-1° C.

reactant | 3-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthyl)phenylacryloyl chloride | 3.2 mmol, 1.2 g | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C=1C=C(C=CC1)C=CC(=O)Cl | C24H27ClO
reactant | 4-hydroxyaniline | 3.2 mmol, 349 mg | OC1=CC=C(N)C=C1 | C6H7NO
product | N-(4-Hydroxyphenyl)-3-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthyl)phenylacrylamide | OC1=CC=C(C=C1)NC(C(=C)C1=CC(=CC=C1)C1=CC=2C(CCC(C2C=C1C)(C)C)(C)C)=O | C30H33NO2
